US07084163B2
3-methyl-4-methoxy pyridine
A mixture of 4 g (28.8 mmol) 3-methyl-4-methoxy pyridine N-oxide (prepared according to the method described in Kohl, Bernhard et al; J. Med. Chem.; 1992; 1049–1057) and 1.1 mg of 5% palladium on charcoal in 50 ml of methanol is hydrogenated at 20 atms at room temperature for 12 hours (2*6 hours). Filtration through celite, and evaporation gave 3,2 g (90%) of a light green oil.

reactant | 3-methyl-4-methoxy pyridine N-oxide | 28.8 mmol, 4 g | CC=1C=[N+](C=CC1OC)[O-] | C7H9NO2
catalyst | palladium on charcoal | 1.1 mg | [Pd] | Pd
solvent | methanol | 50 ml | CO | CH4O
product | 3-methyl-4-methoxy pyridine | 3,2 g, 90% | CC=1C=NC=CC1OC | C7H9NO
